US08232278B2
Synthesis of 2-acetamido-6-chloro-4-(2-ethoxyethoxy)-pyrido[3,2-d]pyrimidine
4 mmol 2-acetamido-6-chloro-pyrido[3,2-d]pyrimidin-4(3H)-one (0.954 g) was reacted with 6 mmol 2-ethoxyethanol (0.54 g) yielding the pure title compound (0.6 g, yield: 48%) which was characterised as follows:

reactant | 2-acetamido-6-chloro-pyrido[3,2-d]pyrimidin-4(3H)-one | 4 mmol, 0.954 g | C(C)(=O)NC=1NC(C2=C(N1)C=CC(=N2)Cl)=O | C9H7ClN4O2
reactant | 2-ethoxyethanol | 6 mmol, 0.54 g | C(C)OCCO | C4H10O2
product | 2-acetamido-6-chloro-4-(2-ethoxyethoxy)-pyrido[3,2-d]pyrimidine | 0.6 g, yield: 48% | C(C)(=O)NC=1N=C(C2=C(N1)C=CC(=N2)Cl)OCCOCC | C13H15ClN4O3
